US06906067B2
Methanesulfonic acid 4-methyl-3-nitro-benzyl ester
(4-Methyl-3-nitro-phenyl)-methanol (3.00 g, 17.95 mmol) was taken up in anhydrous DCM, under argon, and triethyl amine (5.45 g, 53.85 mmol, 7.51 mL) was added. The solution was cooled to 0° C. and methanesulfonyl chloride (2.26 g, 19.74 mmol, 1.53 mL) was added slowly via syringe. The solution was allowed to warm to room temp and stir for 12 h. The reaction mixture poured into 1N HCl and the aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with water, brine and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent removed under reduced pressure. The product was isolated by flash chromatography. (5:1 hexane/ethyl acetate) Yield 2.00 g. 1H NMR (CDCl3, 300 MHz): δ 2.62 (s, 3H), 4.61 (s, 2H), 7.36 (d, J=8 Hz, 1H), 7.36 (d, J=8 Hz, 1H), 8.02 (s, 1H).

reactant | (4-Methyl-3-nitro-phenyl)-methanol | 17.95 mmol, 3.00 g | CC1=C(C=C(C=C1)CO)[N+](=O)[O-] | C8H9NO3
reactant | triethyl amine | 53.85 mmol, 7.51 mL, 5.45 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 19.74 mmol, 1.53 mL, 2.26 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 1N | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | Methanesulfonic acid 4-methyl-3-nitro-benzyl ester | CC1=C(C=C(COS(=O)(=O)C)C=C1)[N+](=O)[O-] | C9H11NO5S
